US07338960B2
Ethyl [(4-{[1-(6-bromo-2-pyridinyl)pentyl]oxy}-2-methylphenyl)oxy]acetate
To a stirred solution of 1-(6-bromo-2-pyridinyl)-1-pentanol (2.00 g, 8.19 mmol) and ethyl (4-hydroxy-2-methylphenoxy)acetate (1.89 g, 8.99 mmol) in dry THF (160 mL) at 0° C. (ice/water bath) under nitrogen was added ADDP (4.13 g, 16.37 mmol) portion-wise over 5 min followed by nBu3P (1.07 mL, 4.30 mmol) drop-wise over 1-2 min. The mixture was stirred with slow warming to rt over 21 h and then concentrated under vacuum, diluted with EtOAc (300 mL) and washed with water (200 mL). The aqueous layer was then re-extracted with EtOAc (300 mL) and the combined organic layer washed with brine (350 mL), dried (MgSO4), filtered and reduced to give a orange solid residue. Purification by SPE (silica, 20 g Cartridge) eluting with cyclohexane:EtOAc (gradient 1:0 to 1:1) afforded the title compound (2.31 g).

reactant | 1-(6-bromo-2-pyridinyl)-1-pentanol | 8.19 mmol, 2.00 g | BrC1=CC=CC(=N1)C(CCCC)O | C10H14BrNO
reactant | ethyl (4-hydroxy-2-methylphenoxy)acetate | 8.99 mmol, 1.89 g | OC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H14O4
reactant | ADDP | 16.37 mmol, 4.13 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | nBu3P | 4.30 mmol, 1.07 mL | P(CCCC)(CCCC)CCCC | C12H27P
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | Ethyl [(4-{[1-(6-bromo-2-pyridinyl)pentyl]oxy}-2-methylphenyl)oxy]acetate | 2.31 g | BrC1=CC=CC(=N1)C(CCCC)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C21H26BrNO4
